US08211911B2
4-Chloro-7-benzyloxy-6-methoxy-quinoline (WO2008112407, 1.5 g) was mixed with 3-(2,2-dimethoxypropyl)-2-fluoro-4-nitrophenol (WO0047212) (1.5 eq) in dioxane (30 ml). The reaction was refluxed for three days and diluted with EtOAc, water and extracted with EtOAc three times. The combined organic layer was washed with water, brine and dried. The solution was evaporated and purified with silica gel column to give 7-(benzyloxy)-4-(3-(2,2-dimethoxypropyl)-2-fluoro-4-nitrophenoxy)-6-methoxyquinoline (650 mg). This product was mixed with 2NHCl (3 ml) and acetone (30 ml) and refluxed for 6 hours. The reaction was diluted with EtOAc and neutralized with saturated NaHCO3, further extracted with EtOAc three times. The combined organic layer was washed with water, brine and dried. The solution was evaporated and purified with silica gel column to give 1-(3-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-2-fluoro-6-nitrophenyl)propan-2-one (500 mg) which was mixed with iron (500 mg) and NH4Cl (50 mg) in EtOH/H2O (20 ml, 4/1). The reaction was refluxed for 4 hours, filter through Celite and evaporated. The residue was extracted with EtOAc three times. The combined organic layer was washed with water, brine and dried. The solution was evaporated and purified with silica gel column to give 4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-6-methoxy-7-benzyloxyquinoline (250 mg).

reactant | 4-Chloro-7-benzyloxy-6-methoxy-quinoline | 1.5 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1 | C17H14ClNO2
reactant | 3-(2,2-dimethoxypropyl)-2-fluoro-4-nitrophenol | 1.5 eq | COC(CC=1C(=C(C=CC1[N+](=O)[O-])O)F)(C)OC | C11H14FNO5
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 7-(benzyloxy)-4-(3-(2,2-dimethoxypropyl)-2-fluoro-4-nitrophenoxy)-6-methoxyquinoline | 650 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C(=C(C=C1)[N+](=O)[O-])CC(C)(OC)OC)F)OC | C28H27FN2O7
